** sch_path: /home/yutaka/01_proj/08_tr10-am-radio/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/klayout/cascode_opamp.sch
.subckt cascode_opamp VOUT VIN_N VIN_P VSS VDD iB
*.PININFO VOUT:O VIN_N:I VIN_P:I VSS:I VDD:I iB:I
MMM2 net2 net1 VDD VDD PMOS w=30u l=1u
MMM4 OUT1 VB2 net5 VSS NMOS w=10u l=1u
MMM7 VOUT iB VDD VDD PMOS w=300u l=1u
MMM8 VOUT OUT1 VSS VSS NMOS w=200u l=1u
MMM16 net1 net1 VDD VDD PMOS w=30u l=1u
MMM17 OUT1 net3 net2 VDD PMOS w=30u l=1u
MMM18 net3 net3 net1 VDD PMOS w=30u l=1u
MMM19 net3 VB2 net4 VSS NMOS w=10u l=1u
MMM20 net5 VIN_P net6 VSS NMOS w=80u l=1u
MMM21 net4 VIN_N net6 VSS NMOS w=80u l=1u
MMM22 net6 VB1 VSS VSS NMOS w=10u l=1u
MMM3 net7 net11 OUT1 VSS NMOS w=20u l=1u
MMM6 net8 net8 VSS VSS NMOS w=20u l=1u
MMM13 VB2 VB2 VB1 VSS NMOS w=10u l=1u
MMM14 VB1 VB1 VSS VSS NMOS w=10u l=1u
MMM23 VB4 VB4 VDD VDD PMOS w=30u l=1u
MMM24 VB2 iB net9 VDD PMOS w=30u l=1u
MMM25 net9 VB4 VDD VDD PMOS w=30u l=1u
MMM26 iB iB VB4 VDD PMOS w=30u l=1u
MMM1 net11 iB net10 VDD PMOS w=30u l=1u
MMM9 net10 VB4 VDD VDD PMOS w=30u l=1u
XXC1 net7 VOUT VSS F_CSIO x=28.5u y=28.5u A=812.2p P=114u
MMM5 net11 net11 net8 VSS NMOS w=20u l=1u
.ends
